US04973600
A mixture of 1.12 g of 1-methoxymethyl-pyrazole, 25 ml of tetrahydrofuran, 6.88 ml of 1.6M n-butyl lithium and a solution of 2.69 g of lithium 4,5-dichloro-6-formyl-1,3-benzodioxole-2-carboxylate in 12 ml of hexamethylphosphoric triamide is treated in the same manner described in Example 11-(1) to give an ethyl acetate solution containing 4,5-dichloro-6-[(1-methoxymethyl-pyrazol-5-yl)hydroxymethyl)-1,3-benzodioxole-2-carboxylic acid. The ethyl acetate solution is washed with water, dried and evaporated to remove solvent under reduced pressure. The residue (crude 4,5-dichloro-6-[(1-methoxymethyl-pyrazol-5-yl)hydroxymethyl]-1,3-benzodioxole-2-carboxylic acid) is dissolved in 100 ml of methylene chloride, 10 g of pyridinium dicromate are added thereto and the mixture is stirred at room temperature for 17 hours. Insoluble materials are filtered off and washed with methylene chloride. The filtrate and the washing solution are combined and evaporated under reduced pressure to remove solvent. Ethyl acetate is added to the residue and insoluble materials are filtered off. The filtrate is washed, dried and evaporated under reduced pressure to remove solvent. The residue is recrystallized from ethyl acetate-n-hexane to give 1.57 g of 4,5-dichloro-6-(1-methoxymethyl-5-pyrazolylcarbonyl)-1,3-benzodioxole-2-carboxylic acid.

reactant | 1-methoxymethyl-pyrazole | 1.12 g | COCN1N=CC=C1 | C5H8N2O
reactant | n-butyl lithium | 1.6M, 6.88 ml | C(CCC)[Li]
reactant | lithium 4,5-dichloro-6-formyl-1,3-benzodioxole-2-carboxylate | 2.69 g | ClC1=C(C(=CC=2OC(OC21)C(=O)[O-])C=O)Cl.[Li+]
reactant | 4,5-dichloro-6-[(1-methoxymethyl-pyrazol-5-yl)hydroxymethyl)-1,3-benzodioxole-2-carboxylic acid | ClC1=C(C(=CC=2OC(OC21)C(=O)O)C(O)C2=CC=NN2COC)Cl | C14H12Cl2N2O6
solvent | hexamethylphosphoric triamide | 12 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4,5-dichloro-6-(1-methoxymethyl-5-pyrazolylcarbonyl)-1,3-benzodioxole-2-carboxylic acid | 1.57 g | ClC1=C(C(=CC=2OC(OC21)C(=O)O)C(=O)C2=CC=NN2COC)Cl | C14H10Cl2N2O6
